US07357991B2
(1) Synthesis of 2,6-di(2-ethylhexyloxy)anthraquinone
Into a 500 ml flask, 10 g (42 mmole) of 2,6-dihydroxyanthraquinone, 16.5 g (86 mmole) of 2-ethylhexyl bromide, 12 g (87 mmole) of anhydrous potassium carbonate and 200 ml of dimethylformamide (DMF) were placed, and the resultant mixture was heated at 90° C. under stirring for one night. After the reaction was completed, DMF was removed by distillation, and 50 ml of water was added. The reaction solution was treated by extraction with diethyl ether, washed with a saturated aqueous solution of sodium chloride and dried with magnesium sulfate. After the concentration under a reduced pressure, the obtained crude product was recrystallized from methanol, and 12.5 g of the quinone compound of the object compound was obtained (the yield: 65%; a yellow powder).

reactant | 2,6-dihydroxyanthraquinone | 42 mmole, 10 g | OC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | 2-ethylhexyl bromide | 86 mmole, 16.5 g | C(C)C(CBr)CCCC | C8H17Br
reactant | potassium carbonate | 87 mmole, 12 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2,6-di(2-ethylhexyloxy)anthraquinone | yield: 65% | C(C)C(COC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)OCC(CCCC)CC)=O)CCCC | C30H40O4
